US04358307
2-{4-[N-Methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionic Acid (27)
Methyl 2-{4-[N-methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionate (1.0 g; compound no 26, Example 8) was suspended in ethanol (5 ml) and a solution of sodium hydroxide (0.11 g) in water (5 ml) was added over a period of 45 minutes. Further ethanol (6 ml) was added and the mixture was stirred at room temperature for a period of 48 hours. The ethanol was removed by distillation under reduced pressure, the residue was dissolved in water and the aqueous solution was acidified to pH 4 by the addition of aqueous 2 M hydrochloric acid. The precipitate was collected by filtration and dried to give the title compound, mp 204° C.

reactant | Methyl 2-{4-[N-methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionate | CN(C1=NC2=CC=C(C=C2N=C1)Cl)C1=CC=C(OC(C(=O)OC)C)C=C1 | C19H18ClN3O3
reactant | sodium hydroxide | 0.11 g | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-{4-[N-Methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionic Acid | CN(C1=NC2=CC=C(C=C2N=C1)Cl)C1=CC=C(OC(C(=O)O)C)C=C1 | C18H16ClN3O3
